US08003676B2
ii) cis-4-(4-Amino-3-fluoro-phenoxy)-cyclohexanecarboxylic acid ethyl ester
Palladium (10 wt. %) on carbon (500 mg) was added in one portion to a solution of 4-(3-fluoro-4-nitro-phenoxy)-cyclohexanecarboxylic acid ethyl ester (2.6 g, 8.35 mmol) in ethanol (75 mL) and the mixture was stirred under a hydrogen atmosphere for 6 h. The reaction mixture was filtered and concentrated in vacuo to leave a residue. The residue was purified by column chromatography, using a gradient of 20-50% EtOAc and isohexane as eluent, to give the title compound as a pale yellow solid (2.0 g, 85%)

reactant | 4-(3-fluoro-4-nitro-phenoxy)-cyclohexanecarboxylic acid ethyl ester | 8.35 mmol, 2.6 g | C(C)OC(=O)C1CCC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])F | C15H18FNO5
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | Palladium | [Pd] | Pd
product | cis-4-(4-Amino-3-fluoro-phenoxy)-cyclohexanecarboxylic acid ethyl ester | 2.0 g, 85% | C(C)OC(=O)[C@@H]1CC[C@@H](CC1)OC1=CC(=C(C=C1)N)F | C15H20FNO3
